US07026321B2
Methyl 2-(4-fluorophenyl)-1,3-oxazoline-4-carboxylate (1.0 g, 4.5 mmol) was dissolved in 30 ml of absolute ethanol. To this solution was added lithium chloride (0.380 g, 9.0 mmol) and sodium borohydride (0.342 g, 9.0 mmol). The reaction was stirred at room temperature until starting material was consumed (TLC, 15:1 dichloromethane:methanol). Ethanol was removed under reduced pressure and replaced with 35 ml of water. The aqueous solution was acidified to about pH 2 with concentrated HCl, and the acidic solution extracted with ethyl acetate (3×50 ml). The resulting organic layer was washed with water (3×50 ml) and dried with sodium sulfate. The organic layer was concentrated under reduced pressure, and the residue purified using column chromatography (3% MeOH in DCM) to yield [2-(4-fluorophenyl)-1,3-oxazolin-4-yl]methan-1-ol (600 mg, M+1=196.1).

reactant | Methyl 2-(4-fluorophenyl)-1,3-oxazoline-4-carboxylate | 4.5 mmol, 1.0 g | FC1=CC=C(C=C1)C=1OCC(N1)C(=O)OC | C11H10FNO3
reactant | lithium chloride | 9.0 mmol, 0.380 g | [Cl-].[Li+]
reactant | sodium borohydride | 9.0 mmol, 0.342 g | [BH4-].[Na+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | [2-(4-fluorophenyl)-1,3-oxazolin-4-yl]methan-1-ol | 600 mg | FC1=CC=C(C=C1)C=1OCC(N1)CO | C10H10FNO2
